US08685958B2
(3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)-3-methoxyphenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone
2-Oxa-5-azaspiro[3.4]octane TFA salt (0.111 g, ca. 70%, 0.34 mmol) and 2-methoxy-4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.13 g, 0.34 mmol) were mixed in dichloromethane (2 ml). Triethylamine (0.1 ml, 0.72 mmol) was then added, followed by sodium triacetoxyhydroborate (0.145 g, 0.69 mmol). The mixture was stirred at ambient temperature overnight. LC-MS showed some remaining starting material. An additional amount of sodium triacetoxyhydroborate (0.11 g) was added and stirring was continued for 6 hours. The reaction mixture was then diluted with dichloromethane (10 ml) and shaken with NaHCO3 (sat. 3 ml). The two phases were separated by the use of a phase separator. Evaporation of the organic phase afforded a colourless residue, which was was purified by preparative reverse-phase HPLC at pH 10 to give 0.113 g (69%) of the desired product as a solid. 1H NMR (600 MHz, DMSO) δ 1.58-1.66 (m, 2H), 2.07-2.12 (m, 2H), 2.55-2.58 (m, 2H), 3.81 (s, 3H), 3.88 (s, 2H), 4.08-4.12 (m, 1H), 4.44 (d, 2H), 4.54-4.58 (m, 1H), 4.64 (ddd, 1H), 4.79 (d, 2H), 5.10 (ddd, 1H), 5.19 (ddd, 1H), 6.42 (dd, 1H), 6.54 (d, 1H), 7.20 (d, 1H), 7.64-7.72 (m, 3H), 8.05-8.11 (m, 2H). MS (APCI+) m/z 477.2 [M+H]+, LC purity: 93%

reactant | 2-Oxa-5-azaspiro[3.4]octane TFA salt | 0.34 mmol, 0.111 g | OC(=O)C(F)(F)F.C1OCC12NCCC2
reactant | 2-methoxy-4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.34 mmol, 0.13 g | COC1=C(C=O)C=CC(=C1)OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1 | C20H17N3O5
reactant | Triethylamine | 0.72 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)-3-methoxyphenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone | 0.113 g, 69% | C1OCC12N(CCC2)CC2=C(C=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1)C=C2)OC | C26H28N4O5
